US07572435B2
Preparation of Cyclohexyl Cyclohexane:
140 g KOH (solid) are added to 2,000 g (20.41 mol) cyclohexanone. The mixture is heated under reflux with stirring. After 0.5 h, the reaction is terminated. The mixture is analyzed by GC analysis.

reactant | KOH | 140 g | [OH-].[K+]
reactant | cyclohexanone | 20.41 mol, 2,000 g | C1(CCCCC1)=O | C6H10O
product | Cyclohexyl Cyclohexane | C1(CCCCC1)C1CCCCC1 | C12H22
